US07202247B2
4-[3-(2,4-dimethoxy-5-thiophen-2-yl-phenyl)-propynoyl]-benzoic acid methyl ester (50 mg, 0.12 mmol) from Ex-1 was dissolved in THF (2 mL) and methanol (2 mL). Sodium hydroxide solution (1 N, 1 mL) was added and the resulting solution was stirred at room termperature under nitrogen for 1 h. The reaction was then diluted with water (10 mL) and washed with ethyl acetate (10 mL). The aqueous phase was acidified with conc. HCl and extracted with ethyl acetate (2×10 mL). The organic phase was dried over magnesium sulfate and concentrated under reduced pressure to afford 20 mg (42%) of the desired 4-[3-(2,4-dimethoxy-5-thiophen-2-yl-phenyl)-propynoyl]-benzoic acid as a yellow solid, m.p. 220° C. with decomposition. 1H-NMR (300 MHz, d6-DMSO) δ 8.30 (d, 2H, J=8.0 Hz), 8.14 (d, 2H, J=8.0 Hz), 8.01 (s, 1H), 7.58 (m, 1H), 7.50 (m, 1H), 7.08 (m, 1H), 6.88 (s, 1H), 4.04 (s, 3H), 4.02 (s, 3H); EIMS m/z 392 (M+).

reactant | 4-[3-(2,4-dimethoxy-5-thiophen-2-yl-phenyl)-propynoyl]-benzoic acid methyl ester | 0.12 mmol, 50 mg | COC(C1=CC=C(C=C1)C(C#CC1=C(C=C(C(=C1)C=1SC=CC1)OC)OC)=O)=O | C23H18O5S
reactant | Sodium hydroxide | 1 N, 1 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 4-[3-(2,4-dimethoxy-5-thiophen-2-yl-phenyl)-propynoyl]-benzoic acid | 20 mg, 42% | COC1=C(C=C(C(=C1)OC)C=1SC=CC1)C#CC(=O)C1=CC=C(C(=O)O)C=C1 | C22H16O5S
